US09193935B2
(3-Methyl-5-(2,6,6-trimethylcyclohex-1-enyl)pent-2-enyl)benzene
A solution of phenethyltriphenylphosphonium bromide (4.40 g, 9.84 mmol, 1.0 equiv.) in THF (20 mL) was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 6.2 mL, 9.84 mmol, 1.0 equiv.) at 0° C., the red solution was stirred at 60° C. for 1 h. The mixture was re-cooled to 0° C., 4-(2,6,6-trimethylcyclohex-1-enyl)butan-2-one (1.92 g, 9.84 mmol, 1.0 equiv.) in THF (10 mL) was added, and the mixture was stirred at 70° C. for 20 h. After addition of H2O, the aqueous layer was extracted with cyclohexane (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane) to yield 816 mg (29%) of the title compound as a colorless oil.

reactant | phenethyltriphenylphosphonium bromide | 9.84 mmol, 4.40 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 9.84 mmol, 1.6 M, 6.2 mL, 1.0 equiv. | [Li]CCCC
reactant | 4-(2,6,6-trimethylcyclohex-1-enyl)butan-2-one | 9.84 mmol, 1.92 g, 1.0 equiv. | CC1=C(C(CCC1)(C)C)CCC(C)=O | C13H22O
reactant | H2O | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-Methyl-5-(2,6,6-trimethylcyclohex-1-enyl)pent-2-enyl)benzene | 816 mg, 29% | CC(=CCC1=CC=CC=C1)CCC1=C(CCCC1(C)C)C | C21H30
